Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Mr. ___ is a ___ year old man with h/o pAfib on ASA, HTN, 
prostate CA, who presents from ___ after an episode of 
syncope.  
.  
The patient stood up for the ___ Anthem today at the ___ 
___ game when he began to feel dizzy. He leaned forward against 
a railing and had brief LOC (___). Did not fall or have 
any trauma. He notes dizziness and blurry vision after he 
regained consciousness. No SOB, CP, fevers, chills, n/v/abd 
pain. He was found to be diaphoretic, pale, and hypotensive and 
brought to the ED for further care.  
.  
Pt notes that he went back in afib yesterday early morning. He 
has been feeling tired, but otherwise in his USOH.  
.  
In the ED initial VS were 98 64 81/60 16 100. Pressure improved 
to SBP low 100s with 3LNS. Labs notable for Cr 1.4. EKG with 
afib. CXR unremarkable. Vitals prior to transfer: 97.2 78 109/62 
18 97%RA.  
.  
On the floor, the pt remains comfortable. No further dizziness 
after the IVF.  
.  
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
cough, shortness of breath, or wheezes. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel habits. No dysuria. Denies arthralgias or myalgias. Denies 
rashes. No numbness/tingling in extremities. No feelings of 
depression or anxiety. All other review of systems negative.  
 
Past Medical History:
pAfib  
HTN  
Prostate cancer - s/p brachytherapy 
 
Social History:
___
Family History:
Mom with h/o alcoholism.  
 
Physical Exam:
Admission PHYSICAL EXAM:

VS: 96.3 ___ 18 97%RA  
Gen: well appearing, NAD  
HEENT: MMM, OP clear  
Neck: supple, no JVD  
CV: RRR S1 S2 no R/G/M  
Pulm: clear to auscultation, no wheezing/rales  
Abd: soft, nontender, nondistended, normoactive bowel sounds  
Ext: no edema, pulses 2+ bilaterally  
Neuro: CNII-XII intact, moving all extremities  

Discharge PHYSICAL EXAM:  
VS: 96.8, 115/82, 62, RR18, 98%RA
Orthostatics: lying flat (111/83), sitting (122/73), standing 
(125/85)

Gen: athletic appearing man younger than stated age, NAD  
HEENT: MMM, OP clear  
Neck: supple, no JVD  
CV: bradycardic and irregularly irregular, nlS1 S2 no R/G/M  
Pulm: clear to auscultation, no wheezing/rales  
Abd: soft, nontender, nondistended, normoactive bowel sounds  
Ext: no edema, pulses 2+ bilaterally  
Neuro: AAOX3 CNII-XII intact, moving all extremities  
 
Pertinent Results:
ECHOCARDIOGRAM: TTE (Complete) Done ___
Conclusions  
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: No structural cardiac cause of syncope identified. 
Normal global and regional biventricular systolic function. Mild 
pulmonary hypertension.   

CXR: 
 
FINDINGS: The lungs are clear without consolidation or edema. 
There is mild aortic tortuosity. The cardiac silhouette is top 
normal for size accounting 
for patient and technical factors. No effusion or pneumothorax 
is noted. No displaced fractures are evident. 
 
IMPRESSION: No acute pulmonary process. 

LABORATORY

___ 05:20AM BLOOD WBC-6.0 RBC-4.07* Hgb-12.3* Hct-36.1* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-13.1 Plt ___

___ 08:00PM BLOOD WBC-5.4 RBC-4.42* Hgb-13.4* Hct-38.9* 
MCV-88 MCH-30.2 MCHC-34.3 RDW-13.0 Plt ___

___ 08:00PM BLOOD Neuts-60.7 ___ Monos-5.1 Eos-5.5* 
Baso-0.9

___ 05:20AM BLOOD Glucose-103* UreaN-21* Creat-1.1 Na-143 
K-4.7 Cl-112* HCO3-24 AnGap-12

___ 05:20AM BLOOD Calcium-7.5* Phos-3.4 Mg-2.0

___ 08:00PM BLOOD Glucose-168* UreaN-28* Creat-1.4* Na-139 
K-4.0 Cl-106 HCO3-20* AnGap-17

CARDIAC:

___ 05:20AM BLOOD CK(CPK)-69
___ 08:00PM BLOOD CK(CPK)-81

___ 05:20AM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:00PM BLOOD cTropnT-<0.01
___ 11:08PM BLOOD Lactate-1.1
 
Brief Hospital Course:
# Syncope, hypotension
Patient was admitted for syncopal episode while at a baseball 
game due to hypovolemic state. At admission patient was found to 
be hypotensive (80s/50), bradycardic (60s). He was given 3L IVF 
in the ED and symptoms pressures improved to 100s/70s. Patient 
received another 2L IVF on the floor and BP rebounded to 110s 
and did not have orthostatic hypotension. Patient also had a 
normal echocardiogram (please see below for full report). Home 
lisinopril were held at discharge and patient is to follow up 
with PCP regarding ___. 

#ARF
Patient presented in mild pre-renal ARF (BUN 28 and Cr 1.4) 
secondary to hypovolemia. Renal function improved with IVF to 
BUN 21 and Cr 1.1. Patient continued to make urine throughout 
hospitalization.  

# Afib
Patient was placed on telemetry and continued to be afib with HR 
___ - 100s. Notably, patient had a 2 brief episode of afib with 
RVR to 120s. Patient was asked to follow up with his 
Cardiologist, Dr. ___ week to discuss potentially 
changing his dronedarone or consider ablation. We strongly 
encourage patient consume ___ fluid/day, and avoid caffinated 
and alcoholic beverages. 

#Prostate cancer
We continued patients Flomax. 

 
Medications on Admission:
ASA 81mg PO daily  
Dronedarone 400mg PO BID  
Flomax 0.4mg PO qhs  
Lisinopril 10mg PO daily  
 
Discharge Medications:
1. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
2. Dronedarone 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
5. Fish Oil 1,000 mg Capsule Sig: One (1) Capsule PO every other 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Syncope secondary to hypovolemia
Pre-renal ARF

Secondary Diagnosis:
Atrial fibrillation
HTN
Prostate cancer in remission

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after having lightheadness and fainting while 
you were at ___ on ___. When you were admitted, you had low 
blood pressures and mild kindey failure due to dehydration. You 
were given IVF and your symptoms and kidney improved. We closely 
monitored your heart rate and noted that you remained in atrial 
fibrillation (afib). You had an echocardiogram while you were 
here which showed normal cardiac function. 

We contacted your Cardiologist and ask that you follow up with 
Dr. ___ ___. 

Medication changes:
1. We held your home lisinopril and recommend that you do not 
take it until you meet with your PCP on ___. 
2. You should take your regularly scheduled medications 
(dronedarone, baby aspirin, and flomax). 

If you are dizzy or lightheaded, please sit down. Please drink 
plenty of water (at least ___ liters/day). Avoid caffinated and 
alcoholic beverages a day. There are no restrictions on your 
driving -- but please do not drive if you are feeling dizzy or 
lightheaded. 

Please keep all follow up appointments.

Should you develop any of the symptoms listed below or anything 
else that is concerning to you, please call your primary care 
doctor or go to your local emergency room.

 
Followup Instructions:
___